US07399761B2
trans 1-(4-Isopropyl-cyclohexylamino)4-[2-hydroxy-(pyridin-4-yl)methyl]-phthalazine:
Under N2-atmosphere, 0.28 ml (2.05 mMol) Me3Sil are added to 400 mg (1.02 mMol) of trans 1-(4-isopropyl-cyclohexylamino)-4-[2-methoxy-(pyridin-4-yl)-methyl]-phthalazine in 10 ml chloroform, and the resulting mixture is stirred during 20 h at 60° C. After cooling to RT, 5 ml sat. NaHCO3-solution, 5 ml water, 20 ml EtOAc and a small amount of methanol are added, followed by agitation. The resulting white crystals are filtered off, washed with water and dried, yielding the title compound: M.p. 266-267° C. (decomposition); FAB-MS: (M+H)+=377; HPLC(Grad20-100) tRet=10.3). From the filtrate, by extraction with EtOAc, washing of the organic phase with water and brine, drying (Na2SO4), evaporation and crystallisation from dichlormethane/methanol under addition of ether, more product results.

reactant | trans 1-(4-isopropyl-cyclohexylamino)-4-[2-methoxy-(pyridin-4-yl)-methyl]-phthalazine | 1.02 mMol, 400 mg | C(C)(C)[C@@H]1CC[C@H](CC1)NC1=NN=C(C2=CC=CC=C12)CC1=CC(=NC=C1)OC | C24H30N4O
reactant | NaHCO3 | 5 ml | C(=O)(O)[O-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | trans 1-(4-Isopropyl-cyclohexylamino)4-[2-hydroxy-(pyridin-4-yl)methyl]-phthalazine | C(C)(C)[C@@H]1CC[C@H](CC1)NC1=NN=C(C2=CC=CC=C12)CC1=CC(=NC=C1)O | C23H28N4O
